US07585885B2
(S)-2-sec-Butylamino-6-(propane-1-sulfinyl)-isonicotinic acid
Add 1 N lithium hydroxide (1.15 mL, 1.15 mmol) to a solution of (S)-2-sec-butylamino-6-(propane-1-sulfinyl)-isonicotinic acid methyl ester (0.229 g, 0.767 mmol) in THF (2 mL) at 0° C. Stir at room temperature for 3 h, acidify the solution to about pH=2 and concentrate to one half of the solvent. Partition the residue between ethyl acetate and water. Extract the aqueous layer with ethyl acetate (2×10 mL). Wash the combine organic extract with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (95%).

reactant | lithium hydroxide | 1.15 mmol, 1 N, 1.15 mL | [OH-].[Li+]
reactant | (S)-2-sec-butylamino-6-(propane-1-sulfinyl)-isonicotinic acid methyl ester | 0.767 mmol, 0.229 g | COC(C1=CC(=NC(=C1)[S@@](=O)CCC)NC(C)CC)=O | C14H22N2O3S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-sec-Butylamino-6-(propane-1-sulfinyl)-isonicotinic acid | 95% | C(C)(CC)NC=1C=C(C(=O)O)C=C(N1)[S@@](=O)CCC | C13H20N2O3S
